Vaccum-Tube Power Amplifier
*SPICE Netlist generated by Advanced Sim server on 11/06/2002 5:05:48 PM

*Schematic Netlist:
C1 NetC1_1 0 0.22uF
C2 NetC2_1 NetC2_2 0.2uF
C3 NetC3_1 NetC3_2 0.2uF
C4 NetC4_1 NetC4_2 0.5uF
C5 NetC5_1 NetC5_2 0.5uF
R1 IN NetR1_2 10k
R2 0 IN 100k
R3 VP1 NetR3_2 220k
R4 NetR4_1 NetR4_2 820
R5 NetR4_2 0 22
R6 VP1 NetC1_1 820k
R7 VP1 NetC2_1 15k
R8 NetC3_1 0 15k
R9 NetC2_2 NetR9_2 1Meg
R10 NetR10_1 NetC3_2 1Meg
R11 NetR11_1 NetR9_2 1k
R12 NetR9_2 0 3.8k
R13 0 NetR10_1 3.8k
R14 NetR10_1 NetR14_2 1k
R15 NetC4_1 VP2 47k
R16 NetR16_1 NetR9_2 75k
R17 VP2 NetC5_1 47k
R18 NetR10_1 NetR18_2 75k
R19 NetC4_2 VM1 100k
R20 VM1 NetC5_2 100k
R21 NetC4_2 NetR21_2 3.9k
R22 NetC5_2 NetR22_2 3.9k
R23 NetR23_1 0 10
R24 NetR4_2 OUT 390
RL OUT 0 8
LaKTF1 OUT 0 0.01
LbKTF1 NetR16_1 VP2 2.2
LcKTF1 VP2 NetR18_2 2.2
KTF1a LaKTF1 LbKTF1 .99
KTF1b LaKTF1 LcKTF1 .99
KTF1c LbKTF1 LcKTF1 .99
V1 VP1 0 +300V
V2 VP2 0 +420V
V3 VM1 0 -22.5V
XVCT2 NetC2_1 NetR3_2 NetC3_1 7199T
XVT1 NetR3_2 NetC1_1 NetR1_2 NetR4_1 7199P
XVT3 NetC4_1 NetC2_2 NetR11_1 6SN7
XVT4 NetC5_1 NetC3_2 NetR14_2 6SN7
XVT5 NetR16_1 VP1 NetR21_2 NetR23_1 6L6GC
XVT6 NetR18_2 VP1 NetR22_2 NetR23_1 6L6GC
Vin IN 0 DC 0 SIN(0 1.5 1k 0 0 0) AC 1 0

.SAVE 0 IN NetC1_1 NetC2_1 NetC2_2 NetC3_1 NetC3_2 NetC4_1 NetC4_2 NetC5_1
.SAVE NetC5_2 NetR1_2 NetR10_1 NetR11_1 NetR14_2 NetR16_1 NetR18_2 NetR21_2 NetR22_2
.SAVE NetR23_1 NetR3_2 NetR4_1 NetR4_2 NetR9_2 OUT VM1 VP1 VP2 V1#branch V2#branch
.SAVE V3#branch Vin#branch @V1[z] @V2[z] @V3[z] @Vin[z]

*PLOT TRAN -1 1 A=IN A=OUT

*Selected Circuit Analyses:
.TRAN 2E-5 0.005 0 2E-5

*Models and Subcircuit:
.SUBCKT 7199T 1 3 4
B1 2 4 I=((URAMP((V(2,4)/17)+V(3,4)))^1.5)/711
C1 3 4 2.3E-12
C2 3 1 2.0E-12
C3 1 4 0.3E-12
R1 3 5 5E+3
D1 1 2 DX
D2 4 2 DX2
D3 5 4 DX
.MODEL DX D(IS=1.0E-12 RS=1.0)
.MODEL DX2 D(IS=1.0E-9 RS=1.0)
.ENDS 7199T

.SUBCKT 7199P 1 6 3 4
B1 2 4 I=(((URAMP((V(7,4)/20)+V(3,4)))^1.5)/1206)*ATAN(V(1,4)/10)
B2 7 4 I=((URAMP((V(7,4)/20)+V(3,4)))^1.5)/2562
C1 3 4 5.0P
C2 3 1 0.06P
C3 1 4 2.0P
R1 3 5 5K
R2 2 4 2.5MEG
D1 1 2 DX
D2 4 2 DX2
D3 5 4 DX
D4 6 7 DX
D5 4 7 DX2
.MODEL DX D(IS=1.0P RS=1.0)
.MODEL DX2 D(IS=1.0N RS=1.0)
.ENDS 7199P

.SUBCKT 6SN7 1 3 4
B1 2 4 I=((URAMP((V(2,4)/20)+V(3,4)))^1.5)/1086
C1 3 4 2.6E-12
C2 3 1 4.0E-12
C3 1 4 0.7E-12
R1 3 5 10E+3
D1 1 2 DX
D2 4 2 DX2
D3 5 4 DX
.MODEL DX D(IS=1.0E-12 RS=1.0)
.MODEL DX2 D(IS=1.0E-9 RS=1.0)
.ENDS 6SN7

.SUBCKT 6L6GC 1 6 3 4
B1 2 4 I=(((URAMP((V(7,4)/8)+V(3,4)))^1.5)/1456)*ATAN(V(1,4)/10)
B2 7 4 I=((URAMP((V(7,4)/8)+V(3,4)))^1.5)/9270
C1 3 4 10P
C2 3 1 0.6P
C3 1 4 6.5P
R1 3 5 1.5K
R2 2 4 100K
D1 1 2 DX
D2 4 2 DX2
D3 5 4 DX
D4 6 7 DX
D5 4 7 DX2
.MODEL DX D(IS=1.0P RS=1.0)
.MODEL DX2 D(IS=1.0N RS=1.0)
.ENDS 6L6GC

.END
